US04146721
8.7 grams 3,3-dibenzoyl-propionic acid ethyl ester, 5.0 grams 3-hydrazino-pyridine and 6.0 grams glacial acetic acid were mixed and the mixture heated to the boiling temperature under reflux for 5 hours. The reaction product was further processed by a procedure analogous to that described in Example (2a). 6.1 grams 3,5-diphenyl-1-(3-pyridyl)-pyrazol-4-acetic acid, melting at 185°-187° C., were obtained, representing a yield of 62%.

reactant | 3,3-dibenzoyl-propionic acid ethyl ester | 8.7 grams | C(C)OC(CC(C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)=O | C19H18O4
reactant | 3-hydrazino-pyridine | 5.0 grams | N(N)C=1C=NC=CC1 | C5H7N3
solvent | acetic acid | 6.0 grams | C(C)(=O)O | C2H4O2
product | 3,5-diphenyl-1-(3-pyridyl)-pyrazol-4-acetic acid | 6.1 grams, yield of 62% | C1(=CC=CC=C1)C1=NN(C(=C1CC(=O)O)C1=CC=CC=C1)C=1C=NC=CC1 | C22H17N3O2
